US07109354B2
a) 4-(6-Amino-5-o-tolyl-pyridine-3-sulfonyl)-5-methylsulfanyl-thiophene-2-carboxylic acid amide
The procedure as in Example 1: step c was followed using 4-(6-amino-5-bromo-pyridine-3-sulfonyl)-5-methylsulfanyl-thiophene-2-carboxylic acid amide (25 mg, 0.06 mmol, Example 120: step a), o-tolyl phenyl boronic acid (33 mg, 0.25 mmol), Pd(PPh3)4 (14 mg, 0.01 mmol), aqueous Na2CO3 (2M, 0.4 mL), ethanol (0.4 mL) and toluene (0.8 mL). Purification by preparative SiO2 chromatography (25% EtOAc in hexanes) of the residue yielded the title compound (7.4 mg, 32%) as a brown solid. ESI-MS (m/z): Calcd. for C18H17N3O3S3: 420.0 (M+H); found: 420.2.

reactant | 4-(6-amino-5-bromo-pyridine-3-sulfonyl)-5-methylsulfanyl-thiophene-2-carboxylic acid amide | NC1=C(C=C(C=N1)S(=O)(=O)C=1C=C(SC1SC)C(=O)N)Br | C11H10BrN3O3S3
reactant | o-tolyl phenyl boronic acid | 0.25 mmol, 33 mg | C1(=C(C=CC=C1)C1=C(C=CC=C1)B(O)O)C | C13H13BO2
reactant | Na2CO3 | 2M, 0.4 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethanol | 0.4 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 0.01 mmol, 14 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 0.8 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(6-Amino-5-o-tolyl-pyridine-3-sulfonyl)-5-methylsulfanyl-thiophene-2-carboxylic acid amide | 7.4 mg, 32% | NC1=C(C=C(C=N1)S(=O)(=O)C=1C=C(SC1SC)C(=O)N)C1=C(C=CC=C1)C | C18H17N3O3S3
